US03944584
A. 9-Fluoropregna-4,16-diene-3,11,20-trione
To a solution of 8.5 ml of dry pyridine in 220 ml of dry dichloromethane is added 5.1 g of chromium trioxide in small portions. When all the solid has dissolved, 25 g of dry Celite is added followed (with stirring) by a solution of 3.0 g of 9-fluoro-11β-hydroxypregna-4,16-diene-3,20-dione. The mixture is then stirred at room temperature for 30 minutes, filtered and the solids are washed with a small amount of dichloromethane. The filtrate and the washings are combined, washed with 5% hydrochloric acid, a dilute sodium bicarbonate solution and water, dried and evaporated to afford the product as a solid. One crystallization from acetone-hexane gives 2.65 g of the title compound, melting point 208°-211°C.

reactant | pyridine | 8.5 ml | N1=CC=CC=C1 | C5H5N
reactant | 9-fluoro-11β-hydroxypregna-4,16-diene-3,20-dione | 3.0 g | F[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1CC=C(C(C)=O)[C@]1(C[C@@H]2O)C)=O)C | C21H27FO3
solvent | dichloromethane | 220 ml | ClCCl | CH2Cl2
catalyst | chromium trioxide | 5.1 g | [O-2].[O-2].[O-2].[Cr+6]
product | 9-Fluoropregna-4,16-diene-3,11,20-trione | F[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1CC=C(C(C)=O)[C@]1(CC2=O)C)=O)C | C21H25FO3
